US06087364
p-Toluene sulfonyl chloride (2.3 g, 12.1 mmol) is added to a solution of TEA (3.5 g, 34.5 mmol) and 1,3-dihydro-2-methyl-3-(2-hydroxyethyl)-2H-isoindol-1-one (2.2 g, 11.5 mmol) in 50 mL of CH2Cl2 at room temperature under argon. The mixture is stirred at room temperature overnight and washed with water (3×50 mL). The organic layer is dried over Na2SO4 and evaporated to give an oil which is chromatographed in ethyl acetate over silica gel to give 1.5 g (38% yield) of 1,3-dihydro-2-methyl-3-(2-tosylethyl)-2H-isoindol-1-one.

reactant | p-Toluene sulfonyl chloride | 12.1 mmol, 2.3 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 1,3-dihydro-2-methyl-3-(2-hydroxyethyl)-2H-isoindol-1-one | 11.5 mmol, 2.2 g | CN1C(C2=CC=CC=C2C1CCO)=O | C11H13NO2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 1,3-dihydro-2-methyl-3-(2-tosylethyl)-2H-isoindol-1-one | 1.5 g, 38% yield | CN1C(C2=CC=CC=C2C1CCS(=O)(=O)C1=CC=C(C)C=C1)=O | C18H19NO3S
